US04379765
8-Chloro-6-phenyl-3H,4H-pyrazolo[3,4-d][2]benzazepine-3-acetamide
A mixture of 0.4 g (1.05 mmol) of 8-chloro-6-phenyl-3H,4H-pyrazolo[3,4-d][2]benzazepine-3-acetic acid ethyl ester and 20 ml of methanolic ammonia (ca 20% v/v) was heated in an autoclave on the steam bath overnight. The solvent was evaporated and the residue was purified by chromatography over 15 g of silica gel using 5% (v/v) of ethanol in methylene chloride. Crystallization from ethyl acetate/ether gave colorless crystals with mp 218°-219°.

reactant | 8-chloro-6-phenyl-3H,4H-pyrazolo[3,4-d][2]benzazepine-3-acetic acid ethyl ester | 1.05 mmol, 0.4 g | C(C)OC(CN1N=CC2=C1CN=C(C1=C2C=CC(=C1)Cl)C1=CC=CC=C1)=O | C21H18ClN3O2
reactant | ammonia | 20 ml | N | H3N
product | 8-Chloro-6-phenyl-3H,4H-pyrazolo[3,4-d][2]benzazepine-3-acetamide | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N(N=C3)CC(=O)N)C=C1 | C19H15ClN4O
